US06660744B1
A mixture of N-(2,3-dihydrobenzo[b]furan-3-yl)-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine (0.080 g, 0.000237 mol), cis-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.087 g, 0.000198 mol), tetrakis-(triphenylphosphine)palladium (0.014 g, 0.000012 mol) and sodium carbonate monohydrate (0.061 g, 0.000495 mol) was heated in a mixture of ethylene glycol dimethyl ether (5 mL) and water (3 mL) at 80° C. for 16 hours under an atmosphere of nitrogen. The mixture was allowed to cool to ambient temperature and solvents were removed under the reduced pressure. The residue was purified by preparative HPLC (Hypersil C18, 8 μm, 25 cm; 10-60% acetonitrile-0.1 M ammonium acetate over 25 min, 21 mL/min). Subsequently, the crude product was dissolved in dichloromethane, loaded onto Trikonex column (7 cm) and eluted with dichloromethane (5 mL). The desired band was cut, the product was extracted with a mixture of dichloromethane/methanol/triethylamine in a ratio of 90:5:5 (10 mL) and the solvents were removed under reduced pressure. The residue was triturated in diethyl ether and the precipitate was collected by filtration and dried to yield cis-3-[4-(2,3-dihydrobenzo[b]furan-3-ylamino)phenyl]-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.021 g, 0.00004 mol) as a white solid.

reactant | N-(2,3-dihydrobenzo[b]furan-3-yl)-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine | 0.000237 mol, 0.080 g | O1C2=C(C(C1)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=CC=C2 | C20H24BNO3
reactant | cis-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.000198 mol, 0.087 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | sodium carbonate monohydrate | 0.000495 mol, 0.061 g | O.C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 5 mL | COCCOC | C4H10O2
solvent | water | 3 mL | O | H2O
product | cis-3-[4-(2,3-dihydrobenzo[b]furan-3-ylamino)phenyl]-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00004 mol, 0.021 g | O1C2=C(C(C1)NC1=CC=C(C=C1)C1=NN(C3=NC=NC(=C31)N)[C@@H]3CC[C@@H](CC3)N3CCN(CC3)C)C=CC=C2 | C30H36N8O
